US08211927B2
To a solution of (4-chloro-5-(3-fluoro-4-(trifluoromethyl)phenyl)isoxazol-3-yl)methyl acetate (1 g, 2.96 mmol) in tetrahydrofuran (20 mL) an aqueous solution of 1N LiOH (8.88 mL, 8.88 mmol) was added. The biphasic reaction mixture was stirred vigorously for 3 hours at 60° C., then allowed to cool and left to stand over the weekend. The reaction mixture was transferred to a separating funnel and the organic layer removed. The aqueous layer was extracted with diethyl ether (2×20 mL), the organics were combined, washed with water (20 mL) and brine (20 mL) before drying with Na2SO4. Filtration and evaporation to dryness in vacuo afforded (4-chloro-5-(3-fluoro-4-(trifluoromethyl)phenyl)isoxazol-3-yl)methanol (878 mg, 2.97 mmol).

reactant | (4-chloro-5-(3-fluoro-4-(trifluoromethyl)phenyl)isoxazol-3-yl)methyl acetate | 2.96 mmol, 1 g | C(C)(=O)OCC1=NOC(=C1Cl)C1=CC(=C(C=C1)C(F)(F)F)F | C13H8ClF4NO3
reactant | LiOH | 8.88 mmol, 1N, 8.88 mL | [Li+].[OH-]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (4-chloro-5-(3-fluoro-4-(trifluoromethyl)phenyl)isoxazol-3-yl)methanol | 2.97 mmol, 878 mg | ClC=1C(=NOC1C1=CC(=C(C=C1)C(F)(F)F)F)CO | C11H6ClF4NO2
